US07018988B2
(2S,4EZ)-1-acryloyl-N-allyl-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, acryloyl chloride, and allylamine the title compound was obtained in 81% purity by LC/MS. MS(ESI+): m/z=252.0.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
reactant | allylamine | C(C=C)N | C3H7N
product | (2S,4EZ)-1-acryloyl-N-allyl-4-(methoxyimino)-2-pyrrolidinecarboxamide | C(C=C)(=O)N1[C@@H](CC(C1)=NOC)C(=O)NCC=C | C12H17N3O3
